US20010018468A1
One mole of tetradecanol ethoxylated with 2 moles of ethylene oxide per mole of tetradecanol and one mole of epichlorohydrin were reacted in the presence of tin tetrachloride at a temperature of 60 to 70° C. and a glycidyl ether was obtained. A solution of 30% sodium hydroxide in water was added at 80° C. After 30 minutes under vigorous stirring at 80° C., the resulting glycidyl ether was separated from the water phase. It had the structure

reactant | tetradecanol | One mole | C(CCCCCCCCCCCCC)O | C14H30O
reactant | ethylene oxide | 2 moles | C1CO1 | C2H4O
reactant | epichlorohydrin | one mole | C(Cl)C1CO1 | C3H5ClO
reactant | tin tetrachloride | [Sn](Cl)(Cl)(Cl)Cl
product | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
